US04367238
A suspension of sodium hydride (65%, 600 mg) in dimethylformamide (30 ml), a solution of ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate (5 g) in dimethylformamide (10 ml) and n-heptyl bromide (4.1 g) were treated in a similar manner to that of Example 25-(1) to give oily ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]-n-nonanate (6.8 g).

reactant | sodium hydride | 600 mg | [H-].[Na+]
reactant | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]acetate | 5 g | C(#N)C(C(=O)OCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C19H19NO4
reactant | n-heptyl bromide | 4.1 g | C(CCCCCC)Br | C7H15Br
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-cyano-2-[2-methoxy-3-(o-tolyloxy)phenyl]-n-nonanate | 6.8 g | C(#N)C(C(=O)OCC)(CCCCCCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)C)OC | C26H33NO4
